* C:\Users\shivp\Desktop\2021eeb1030_Course_project\project_22nm.asc
M16 N006 N008 N016 N006 PMOS l=22n w=264n
M17 N011 N016 N020 N011 PMOS l=22n w=264n
M18 N002 N016 N002 N002 PMOS l=22n w=22n
M22 0 N020 N008 0 NMOS l=22n w=110n
M24 N020 N020 N023 N023 NMOS l=22n w=330n
V7 N002 0 .8
V8 N011 0 0.8
V9 N006 0 .8
V10 N005 0 .8
V11 N015 0 .8
V12 N007 0 .8
M14 0 N019 N014 0 NMOS l=22n w=110n
M20 N016 N014 N019 N019 NMOS l=22n w=44n
M21 0 N019 N019 0 NMOS l=22n w=110n
M23 N016 N019 0 0 NMOS l=22n w=110n
R1 N023 0 5.5k
M13 N014 N014 N007 N007 PMOS l=22n w=11n
M19 N019 N016 N015 N015 PMOS l=22n w=264n
M15 N008 N008 N005 N005 PMOS l=22n w=264n
M5 N022 N022 0 0 NMOS l=22n w=55n
M6 N021 N022 N024 N024 NMOS l=22n w=110n
M8 N017 N022 N025 N025 NMOS l=22n w=110n
M10 N003 N022 N026 N026 NMOS l=22n w=110n
M12 N009 N016 N022 N009 PMOS l=22n w=264n
M25 N012 N016 N021 N012 PMOS l=22n w=264n
M26 N013 N017 N017 N013 PMOS l=22n w=88n
M27 N010 N017 N003 N010 PMOS l=22n w=264n
M28 N001 N003 N010 N001 PMOS l=22n w=264n
V1 N009 0 0.8
V2 N012 0 .8
V5 N013 0 .8
V6 N001 0 .8
M2 Vout N022 N027 N027 NMOS l=22e-9 w=157e-9
M1 N027 N028 0 0 NMOS l=22e-9 w=157e-9
M3 N018 N017 Vout N018 PMOS l=22e-9 w=1100e-9
M4 N004 N003 N018 N004 PMOS l=22e-9 w=1320e-9
V3 N004 0 .8
C1 Vout 0 1e-12
V4 N028 0 SINE(0.64 0.02 1.5915Meg)
M7 N024 N021 0 0 NMOS l=22n w=110n
M9 N025 N021 0 0 NMOS l=22n w=110n
M11 N026 N021 0 0 NMOS l=22n w=110n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\shivp\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.01m
.lib 22nm.pm
* Vbias1=
* Vbias2=
* Vbias3=
.backanno
.end
